US07176216B2
To a solution of tert-butyl N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate (170 mg) dissolved in N,N-dimethylformamide (4 mL) was added sodium hydride (60% in oil; 22 mg) and (bromomethyl)cyclopropane (0.043 mL), and the reaction mixture was stirred for 30 minutes at 40° C. Water was added to the obtained reaction mixture, extraction was performed with ethyl acetate and the organic extract was washed with brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure to afford a crude product of tert-butyl N-cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate.

reactant | tert-butyl N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 170 mg | COC1=C(C(=CC(=C1)COC)OC)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)COC | C24H31N3O6
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 0.043 mL | BrCC1CC1 | C4H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | C1(CC1)CN(C(OC(C)(C)C)=O)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2OC)COC)OC)COC | C28H37N3O6
